US09102692B2
4-Bromo-2-iodo-5-trifluoromethyl-phenylamine (366 mg, 1.0 mmol) and p-toluene sulfonyl chloride (286 mg, 1.5 mmol, 1.5 eq.) were dissolved in anhydrous pyridine (2.5 ml). This was stirred at room temperature for 16 hours. An aqueous solution of 1 M sodium hydroxide was added to the reaction mixture, and this was stirred for five minutes. The reaction mixture was diluted with ethyl acetate. The organic layer was isolated, and washed with an aqueous solution of 1 M hydrochloric acid and an aqueous solution saturated with sodium chloride, and dried over anhydrous sodium sulfate. The desiccant was removed by filtration, and concentration was performed. Then, the residue obtained by concentration under reduced pressure was dissolved in tetrahydrofuran (THF) (2.5 ml), and then a tetrahydrofuran (THF) solution of 1 M tetrabutylammonium fluoride was added thereto. This was stirred at room temperature for 17 hours. The reaction mixture was diluted with ethyl acetate. The organic layer was isolated, and washed with water and an aqueous solution saturated with sodium chloride, and then dried over anhydrous sodium sulfate. The desiccant was removed by filtration and concentration was performed. Then, the residue obtained by concentration under reduced pressure was purified by silica gel column chromatography. Thus, N-(4-bromo-2-iodo-5-trifluoromethyl-phenyl)-4-methyl benzynesulfonamide was obtained as a pale brown solid (494 mg, three-step yield of 95%).

reactant | 4-Bromo-2-iodo-5-trifluoromethyl-phenylamine | 1.0 mmol, 366 mg | BrC1=CC(=C(C=C1C(F)(F)F)N)I | C7H4BrF3IN
reactant | p-toluene sulfonyl chloride | 1.5 mmol, 286 mg, 1.5 eq. | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | tetrabutylammonium fluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
product | N-(4-bromo-2-iodo-5-trifluoromethyl-phenyl)-4-methyl benzynesulfonamide | yield of 95% | BrC1=CC(=C(C=C1C(F)(F)F)NS(=O)(=O)C=1C#CC=CC1C)I | C14H8BrF3INO2S
